US07244728B2
a) 1-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-propan-1-ol
A Grignard is prepared from 10 g (40 mmol) 5-bromo-2-fluorobenzotrifluoride, dissolved in 50 mL diethyl ether, and 0.97 g (40 mmol) magnesium. Then a solution of 3.63 mL (40 mmol) isobutyraldehyde and 30 mL diethyl ether is added dropwise at ambient temperature and the mixture is left overnight with stirring. The reaction mixture is poured onto ice water, combined with 30 mL 20% sulphuric acid and extracted with diethyl ether. The combined organic phases are washed successively with sodium hydrogen carbonate solution, water and sodium chloride solution, dried with sodium sulphate and evaporated down. The chromatographic purification of the residue yields the target compound in the form of a brown oil.

reactant | 5-bromo-2-fluorobenzotrifluoride | 40 mmol, 10 g | BrC=1C=CC(=C(C1)C(F)(F)F)F | C7H3BrF4
reactant | magnesium | 40 mmol, 0.97 g | [Mg] | Mg
reactant | isobutyraldehyde | 40 mmol, 3.63 mL | C(C(C)C)=O | C4H8O
reactant | sulphuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 1-(4-fluoro-3-trifluoromethyl-phenyl)-2-methyl-propan-1-ol | FC1=C(C=C(C=C1)C(C(C)C)O)C(F)(F)F | C11H12F4O
